* SpiceNetList
* 
* Exported from throttelPWM_500Hz.sch at 03/08/23 16:57
* 
* EAGLE Version 9.6.2 Copyright (c) 1988-2020 Autodesk, Inc.
* 
.TEMP=25.0

* --------- .OPTIONS ---------
.OPTIONS ABSTOL=1e-12 GMIN=1e-12 PIVREL=1e-3 ITL1=100 ITL2=50 PIVTOL=1e-13 RELTOL=1e-3 VNTOL=1e-6 CHGTOL=1e-15 ITL4=10 METHOD=TRAP SRCSTEPS=0 TRTOL=7 NODE

* --------- .PARAMS ---------

* --------- devices ---------
R_R1 N_2 N_5 5k 
V_V1 N_2 0 DC 5V AC 0 PULSE(0 5 0.001 0 0 0.001 0.002) 
C_C1 N_5 0 10u 

* --------- simulation ---------
.control
set filetype=ascii
OP
write throttelPWM_500Hz.sch.sim
.endc



.END










