* SpiceNetList
* 
* Exported from throttelPWM_500Hz.sch at 03/08/23 16:57
* 
* EAGLE Version 9.6.2 Copyright (c) 1988-2020 Autodesk, Inc.
* 
.TEMP=25.000000
* --------- .OPTIONS ---------
* --------- .PARAMS ---------

* --------- devices ---------
R_R1 N_2 N_5 5k 
V_V1 N_2 0 DC 5V AC 0 PULSE(0 5 0.001 0 0 0.001 0.002) 
C_C1 N_5 0 10u 

* --------- simulation ---------
.print DC V(N_2) V(N_5) I(V_V1)
.print AC V(N_2) V(N_5) I(V_V1)
.print TRAN V(N_2) V(N_5) I(V_V1)
.END










